US05508278
8-Azabicyclo[4.3.0]non-2-ene
The starting material is 228 g (4.0 mol) of 1-amino-2-propene. 58.8 g (0.4 mol) of (E)-1-bromo-2,4-pentadiene (title compound of Example A.1.) are added dropwise, with stirring. The internal temperature is kept in the range 20°-30° C. by cooling. The reaction mixture is stirred for 5 h at room temperature and concentrated at 150 mbar. A solution of 20 g (0.5 mol) of sodium hydroxide in 200 ml of water is added, the mixture is extracted with twice 100 ml of methylene chloride, the extracts are dried over sodium sulphate, 0.1 g of 4-hydroxyanisole is added and the mixture is concentrated and distilled at 40 mbar. The distillate is stabilized by the addition of 10-20 ppm of 4-hydroxyanisole.

reactant | 1-amino-2-propene | 4.0 mol, 228 g | NCC=C | C3H7N
reactant | (E)-1-bromo-2,4-pentadiene | 0.4 mol, 58.8 g | BrC\C=C\C=C | C5H7Br
product | 8-Azabicyclo[4.3.0]non-2-ene | C12C=CCCC2CNC1 | C8H13N
